US06589984B1
A solution of methyl 6-hydroxybenzofuran-2-carboxylate (3.58 g) in THF (30 ml) was slowly added to a suspension of NaH (800 mg) in THF (100 ml) at room temperature, and after stirring for one hour, DMF (35 ml) was added, benzyl bromide (3.77 g) was slowly added and the mixture was stirred for one hour. Water was added to the reaction solution, extraction was performed with AcOEt, and the organic layer was dried with MgSO4 and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=10/1) to obtain methyl 6-(benzyloxy)benzofuran-2-carboxylate.

reactant | methyl 6-hydroxybenzofuran-2-carboxylate | 3.58 g | OC1=CC2=C(C=C(O2)C(=O)OC)C=C1 | C10H8O4
reactant | NaH | 800 mg | [H-].[Na+]
reactant | DMF | 35 ml | CN(C)C=O | C3H7NO
reactant | benzyl bromide | 3.77 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | methyl 6-(benzyloxy)benzofuran-2-carboxylate | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)C(=O)OC)C=C1 | C17H14O4
